US04831151
1.99 g (10 mmol) of 1-(benzylideneamino)-2-ethylimidazole are added to a solution of 1.79 g (10 mmol) of 1-bromo-3,3-dimethyl-2-butanone in 30 ml of ethylene chloride and the mixture is then stirred at 60° for 5 hours. The crystallized-out product is filtered off and washed with ether. There is obtained 1-(benzylideneamino)-2-ethyl-3-(pivaloylmethyl)imidazolium bromide of melting point 219°-221°.

reactant | 1-(benzylideneamino)-2-ethylimidazole | 10 mmol, 1.99 g | C(C1=CC=CC=C1)=NN1C(=NC=C1)CC | C12H13N3
reactant | 1-bromo-3,3-dimethyl-2-butanone | 10 mmol, 1.79 g | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | ethylene chloride | 30 ml | C(CCl)Cl | C2H4Cl2
product | 1-(benzylideneamino)-2-ethyl-3-(pivaloylmethyl)imidazolium bromide | [Br-].C(C1=CC=CC=C1)=N[N+]1=C(N(C=C1)CC(C(C)(C)C)=O)CC | InChI=1S/C18H24N3O.BrH/c1-5-17-20(14-16(22)18(2,3)4)11-12-21(17)19-13-15-9-7-6-8-10-15;/h6-13H,5,14H2,1-4H3;1H/q+1;/p-1
